US08975316B2
Preparation of 3-amino-1,2,4-triazol-5-yl disulfide
Glacial acetic acid (2.60 g) was added to 4.89 g of a 15% aqueous hydrogen peroxide solution. The resulting solution was added over 20 minutes to a solution prepared from 5.01 g 3-amino-1,2,4-triazole-5-thiol, 65.2 g of water and 4.33 g 40% NaOH. The reaction mixture was kept between 18 C-22 C by use of an ice bath during the addition. After stirring for 75 min, the product was filtered, washed with water and then dried under vacuum at 70 C.

reactant | acetic acid | 2.60 g | C(C)(=O)O | C2H4O2
reactant | hydrogen peroxide | OO | H2O2
reactant | 3-amino-1,2,4-triazole-5-thiol | 5.01 g | NC1=NNC(=N1)S | C2H4N4S
reactant | NaOH | 4.33 g | [OH-].[Na+]
solvent | water | 65.2 g | O | H2O
product | 3-amino-1,2,4-triazol-5-yl disulfide | NC1=NNC(=N1)SSC1=NC(=NN1)N | C4H6N8S2
